US07582626B2
a) 2-(3,3-Dimethylbutylamino)-cyclopent-1-enecarboxylic acid ethyl ester
To a solution of ethyl 2-oxocyclopentanecarboxylate (4.10 mL, 26.3 mmol) in ethanol (50 mL) was added 3,3-dimethylbutylamine (2.80 g, 26.8 mmol) at 25° C. The mixture was heated at reflux for 12 h. The reaction mixture was allowed to cool to 25° C. and concentrated in vacuo. The crude material was purified by flash column chromatography (Teledyne Isco RediSep Flash Column; 0-20% ethyl acetate in hexanes) to afford the desired product, 2-(3,3-dimethylbutylamino)-cyclopent-1-enecarboxylic acid ethyl ester (5.59 g, 23.4 mmol, 89%), as a yellowish oil. 1H NMR (400 MHz, CDCl3) δ 0.94 (9H, s), 1.28 (3H, t, J=7.0 Hz), 1.46-1.50 (2H, m), 1.80-1.88 (2H, m), 2.51-2.58 (4H, m), 3.16-3.21 (2H, m), 4.14 (2H, q, J=7.0 Hz).

reactant | ethyl 2-oxocyclopentanecarboxylate | 26.3 mmol, 4.10 mL | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | 3,3-dimethylbutylamine | 26.8 mmol, 2.80 g | CC(CCN)(C)C | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(3,3-dimethylbutylamino)-cyclopent-1-enecarboxylic acid ethyl ester | 23.4 mmol, 5.59 g, 89% | C(C)OC(=O)C1=C(CCC1)NCCC(C)(C)C | C14H25NO2
